US05637718
(c) 5-Bromo-3,3-dimethylpentanoyl chloride
5-Bromo-3,3-dimethylpentanoic acid (40 g, 0.192 mol) was converted into the corresponding acid chloride by heating it on a water bath with thionyl chloride (29.6 g, 1.3 equivalents). The title compound was obtained by vacuum distillation as a colourless liquid, 38.8 g (89% yield), b.p. 77° C./0.75 mm Hg. 1H NMR (CDCl3) δ3.40 (2H, t), 2.85 (2H, s), 2.00 (2H, t), and 1.10 (6H, s).

reactant | 5-Bromo-3,3-dimethylpentanoic acid | 0.192 mol, 40 g | BrCCC(CC(=O)O)(C)C | C7H13BrO2
reactant | thionyl chloride | 29.6 g, 1.3 equivalents | S(=O)(Cl)Cl | Cl2OS
product | 5-Bromo-3,3-dimethylpentanoyl chloride | 89% yield | BrCCC(CC(=O)Cl)(C)C | C7H12BrClO
